US06664260B2
A dried round bottom flask was charged with a stir bar, 2-(1H-imidazo[4,5-c]quinolin-1-yl)ethyl (2-propynyl)ether (11.78 g, 46.88 mmol), anhydrous triethylamine (14 mL, 121.9 mmol), 2-iodothiophene (5.7 mL, 51.57 mmol) and anhydrous dimethyl formamide(130 mL) under a nitrogen atmosphere and heated to 80° C. After 5 minutes dichlorobis(triphenylphosphine)palladium(II) (0.658 g, 0.937 mol) and copper(I) iodide (0.357 g, 1.875 mmol) were added neat to the solution. The reaction was judged complete after 50 minutes. The volatiles were removed under reduced pressure and the resulting solid partitioned between dichloromethane and 0.5N aqueous potassium hydroxide. The aqueous fraction was extracted with dichloromethane (3×); the combined organic fractions were dried with anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to provide a brown solid. The glassy solid obtained from purification by chromatography over silica gel (98/2 dichloromethane/methanol) was triturated with ether to provide 9.5 g of 1-{2-[(3-thien-2-ylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin as a tan solid.

reactant | 2-(1H-imidazo[4,5-c]quinolin-1-yl)ethyl (2-propynyl)ether | 46.88 mmol, 11.78 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCOCC#C | C15H13N3O
reactant | triethylamine | 121.9 mmol, 14 mL | C(C)N(CC)CC | C6H15N
reactant | 2-iodothiophene | 51.57 mmol, 5.7 mL | IC=1SC=CC1 | C4H3IS
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.937 mol, 0.658 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 1.875 mmol, 0.357 g | [Cu]I
solvent | dimethyl formamide | 130 mL | CN(C=O)C | C3H7NO
product | 1-{2-[(3-thien-2-ylprop-2-ynyl)oxy]ethyl}-1H-imidazo[4,5-c]quinolin | 9.5 g | S1C(=CC=C1)C#CCOCCN1C=NC=2C=NC=3C=CC=CC3C21 | C19H15N3OS
